### PR TITLE
[Merged by Bors] - fix: typo in `integral_Icc_eq_integral_Ioo`

### PR DESCRIPTION
**Pull request by enricozb**
Fixes a typo: the RHS of `integral_Icc_eq_integral_Ioo` was an `Ico` not an `Ioo`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/SetIntegral.lean [hunk 1]
```diff
@@ -658,7 +658,7 @@ theorem integral_Ico_eq_integral_Ioo : ∫ t in Ico a b, f t ∂μ = ∫ t in Io
   integral_Ico_eq_integral_Ioo' <| measure_singleton a
 #align measure_theory.integral_Ico_eq_integral_Ioo MeasureTheory.integral_Ico_eq_integral_Ioo
 
-theorem integral_Icc_eq_integral_Ioo : ∫ t in Icc a b, f t ∂μ = ∫ t in Ico a b, f t ∂μ := by
+theorem integral_Icc_eq_integral_Ico : ∫ t in Icc a b, f t ∂μ = ∫ t in Ico a b, f t ∂μ := by
   rw [integral_Icc_eq_integral_Ico, integral_Ico_eq_integral_Ioo]
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/SetIntegral.lean:662]:
```suggestion
theorem integral_Icc_eq_integral_Ioo : ∫ t in Icc a b, f t ∂μ = ∫ t in Ioo a b, f t ∂μ := by
  rw [integral_Icc_eq_integral_Ico, integral_Ico_eq_integral_Ioo]
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
